US05760032
Ethyl 2-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethylcarbamoyl)indole-1-acetate is dissolved in dichloroethane, and reacted with 1-fluoro-2,6-dichloropyridiniumtriflate to give ethyl 2-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethylcarbamoyl)-3-fluoroindole-1-acetate.

reactant | Ethyl 2-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethylcarbamoyl)indole-1-acetate | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C)CNC(=O)C=2N(C3=CC=CC=C3C2)CC(=O)OCC)C=CC=C1 | C30H28ClN5O4S
reactant | 1-fluoro-2,6-dichloropyridiniumtriflate | [O-]S(=O)(=O)C(F)(F)F.F[N+]1=C(C=CC=C1Cl)Cl
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | ethyl 2-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethylcarbamoyl)-3-fluoroindole-1-acetate | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C)CNC(=O)C=2N(C3=CC=CC=C3C2F)CC(=O)OCC)C=CC=C1 | C30H27ClFN5O4S
